US08222435B2
Methyl 1-(3-chloropyridin-2-yl)-3-(hydroxymethyl)-1H-pyrazole-5-carboxylate
HCl solution (9.1 g, as 4% solution in methanol) was added to the suspension of 28.5 g (0.1 mol) of methyl 1-(3-chloropyridin-2-yl)-5-hydroxy-3-(hydroxymethyl)-4,5-dihydro-1H-pyrazole-5-carboxylate in 100 ml of methanol. After ca. 30 min at 25-30° C., a clear, yellow solution had formed. Methanol was removed in vacuo and the precipitate was washed with water. Yield 26.7 g, 100%. M.p. 104° C.

reactant | HCl | 9.1 g | Cl | ClH
reactant | methyl 1-(3-chloropyridin-2-yl)-5-hydroxy-3-(hydroxymethyl)-4,5-dihydro-1H-pyrazole-5-carboxylate | 0.1 mol, 28.5 g | ClC=1C(=NC=CC1)N1N=C(CC1(C(=O)OC)O)CO | C11H12ClN3O4
solvent | methanol | 100 ml | CO | CH4O
product | Methyl 1-(3-chloropyridin-2-yl)-3-(hydroxymethyl)-1H-pyrazole-5-carboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)CO | C11H10ClN3O3
